** sch_path: /foss/designs/libs/switch_matrix_gf180mcu_9t5v0/full_switch_matrix_25_by_5/full_switch_matrix_25_by_5.sch
.subckt full_switch_matrix_25_by_5 data D_out clock BUS[1] BUS[2] BUS[3] BUS[4] BUS[5] BUS[6] BUS[7] BUS[8] BUS[9] BUS[10] BUS[11]
+ BUS[12] BUS[13] BUS[14] BUS[15] BUS[16] BUS[17] BUS[18] BUS[19] BUS[20] BUS[21] BUS[22] BUS[23] BUS[24] BUS[25] PIN[1] PIN[2] PIN[3]
+ PIN[4] PIN[5] enable VDDd VSSd
*.PININFO data:I clock:I enable:I D_out:O PIN[1:5]:O BUS[1:25]:O VSSd:B VDDd:B
xNO_ClkGen PHI_2_gen clk_in PHI_1_gen VDDd VSSd NO_ClkGen
x3 data datab VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_2
x1 datab net4 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_2
x4 clock clockb VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_2
x5 clockb clk_in VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_2
x6 PHI_2_gen net1 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_4
x7 net1 PHI_2 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_8
x9 PHI_1_gen net2 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_4
x10 net2 PHI_1 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_8
x12 net4 net3 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_4
x13 net3 data_in VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_8
x2 enable net5 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_4
x8 net5 enable VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_8
xSWMATRIX data_in D_out PHI_1 PHI_2 BUS[1] BUS[2] BUS[3] BUS[4] BUS[5] BUS[6] BUS[7] BUS[8] BUS[9] BUS[10] BUS[11] BUS[12] BUS[13]
+ BUS[14] BUS[15] BUS[16] BUS[17] BUS[18] BUS[19] BUS[20] BUS[21] BUS[22] BUS[23] BUS[24] BUS[25] PIN[1] PIN[2] PIN[3] PIN[4] PIN[5] VDDd
+ VSSd enable swmatrix_25_by_5
.ends

* expanding   symbol:  switch_matrix_gf180mcu_9t5v0/NO_ClkGen/NO_ClkGen.sym # of pins=5
** sym_path: /foss/designs/libs/switch_matrix_gf180mcu_9t5v0/NO_ClkGen/NO_ClkGen.sym
** sch_path: /foss/designs/libs/switch_matrix_gf180mcu_9t5v0/NO_ClkGen/NO_ClkGen.sch
.subckt NO_ClkGen PHI_2 CLK PHI_1 VDDd VSSd
*.PININFO CLK:I PHI_2:O PHI_1:O VDDd:B VSSd:B
x1 CLKB OUT_bot_d OUT_top VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__nand2_1
x2 OUT_top_d CLKbuf OUT_bot VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__nand2_1
x3 OUT_top PHI_2 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
x4 PHI_2 net5 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
x5 net3 net2 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
x6 OUT_bot PHI_1 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
x7 PHI_1 net6 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
x8 net4 net1 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
x9 CLKB CLKbuf VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
x10 CLK CLKB VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
x11 net5 net3 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
x12 net6 net4 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
x13 net2 net7 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
x15 net1 net8 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
x17 net7 net9 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
x18 net8 net12 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
x14 net9 net10 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
x16 net12 net11 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
x19 net10 OUT_top_d VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
x20 net11 OUT_bot_d VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
* noconn VDDd
* noconn VSSd
.ends


* expanding   symbol:  switch_matrix_gf180mcu_9t5v0/swmatrix_5_by_25/swmatrix_25_by_5.sym # of pins=9
** sym_path: /foss/designs/libs/switch_matrix_gf180mcu_9t5v0/swmatrix_5_by_25/swmatrix_25_by_5.sym
** sch_path: /foss/designs/libs/switch_matrix_gf180mcu_9t5v0/swmatrix_5_by_25/swmatrix_25_by_5.sch
.subckt swmatrix_25_by_5 D_in D_out PHI_1 PHI_2 BUS[1] BUS[2] BUS[3] BUS[4] BUS[5] BUS[6] BUS[7] BUS[8] BUS[9] BUS[10] BUS[11]
+ BUS[12] BUS[13] BUS[14] BUS[15] BUS[16] BUS[17] BUS[18] BUS[19] BUS[20] BUS[21] BUS[22] BUS[23] BUS[24] BUS[25] PIN[1] PIN[2] PIN[3]
+ PIN[4] PIN[5] VDDd VSSd enable
*.PININFO PIN[1:5]:B BUS[1:25]:B PHI_1:I PHI_2:I D_in:I D_out:O VDDd:B VSSd:B enable:I
xswmatrix_row[1] D_in D_out_row[1] PHI_1 PHI_2 BUS[1] BUS[2] BUS[3] BUS[4] BUS[5] BUS[6] BUS[7] BUS[8] BUS[9] BUS[10] BUS[11]
+ BUS[12] BUS[13] BUS[14] BUS[15] BUS[16] BUS[17] BUS[18] BUS[19] BUS[20] BUS[21] BUS[22] BUS[23] BUS[24] BUS[25] PIN[1] VDDd VSSd enable
+ swmatrix_row_25
xswmatrix_row[2] D_out_row[1] D_out_row[2] PHI_1 PHI_2 BUS[1] BUS[2] BUS[3] BUS[4] BUS[5] BUS[6] BUS[7] BUS[8] BUS[9] BUS[10]
+ BUS[11] BUS[12] BUS[13] BUS[14] BUS[15] BUS[16] BUS[17] BUS[18] BUS[19] BUS[20] BUS[21] BUS[22] BUS[23] BUS[24] BUS[25] PIN[2] VDDd VSSd
+ enable swmatrix_row_25
xswmatrix_row[3] D_out_row[2] D_out_row[3] PHI_1 PHI_2 BUS[1] BUS[2] BUS[3] BUS[4] BUS[5] BUS[6] BUS[7] BUS[8] BUS[9] BUS[10]
+ BUS[11] BUS[12] BUS[13] BUS[14] BUS[15] BUS[16] BUS[17] BUS[18] BUS[19] BUS[20] BUS[21] BUS[22] BUS[23] BUS[24] BUS[25] PIN[3] VDDd VSSd
+ enable swmatrix_row_25
xswmatrix_row[4] D_out_row[3] D_out_row[4] PHI_1 PHI_2 BUS[1] BUS[2] BUS[3] BUS[4] BUS[5] BUS[6] BUS[7] BUS[8] BUS[9] BUS[10]
+ BUS[11] BUS[12] BUS[13] BUS[14] BUS[15] BUS[16] BUS[17] BUS[18] BUS[19] BUS[20] BUS[21] BUS[22] BUS[23] BUS[24] BUS[25] PIN[4] VDDd VSSd
+ enable swmatrix_row_25
xswmatrix_row[5] D_out_row[4] D_out PHI_1 PHI_2 BUS[1] BUS[2] BUS[3] BUS[4] BUS[5] BUS[6] BUS[7] BUS[8] BUS[9] BUS[10] BUS[11]
+ BUS[12] BUS[13] BUS[14] BUS[15] BUS[16] BUS[17] BUS[18] BUS[19] BUS[20] BUS[21] BUS[22] BUS[23] BUS[24] BUS[25] PIN[5] VDDd VSSd enable
+ swmatrix_row_25
.ends


* expanding   symbol:  switch_matrix_gf180mcu_9t5v0/swmatrix_row_25/swmatrix_row_25.sym # of pins=9
** sym_path: /foss/designs/libs/switch_matrix_gf180mcu_9t5v0/swmatrix_row_25/swmatrix_row_25.sym
** sch_path: /foss/designs/libs/switch_matrix_gf180mcu_9t5v0/swmatrix_row_25/swmatrix_row_25.sch
.subckt swmatrix_row_25 D_in D_out PHI_1 PHI_2 BUS[1] BUS[2] BUS[3] BUS[4] BUS[5] BUS[6] BUS[7] BUS[8] BUS[9] BUS[10] BUS[11]
+ BUS[12] BUS[13] BUS[14] BUS[15] BUS[16] BUS[17] BUS[18] BUS[19] BUS[20] BUS[21] BUS[22] BUS[23] BUS[24] BUS[25] pin VDDd VSSd enable
*.PININFO pin:B PHI_2:I PHI_1:I BUS[1:25]:B D_in:I D_out:O VDDd:B VSSd:B enable:I
xSR Q[1] Q[2] Q[3] Q[4] Q[5] Q[6] Q[7] Q[8] Q[9] Q[10] Q[11] Q[12] Q[13] Q[14] Q[15] Q[16] Q[17] Q[18] Q[19] Q[20] Q[21] Q[22]
+ Q[23] Q[24] D_out D_in PHI_1 PHI_2 VDDd VSSd ShiftReg_row_25
xTgates[1] Q[1] BUS[1] pin VDDd VSSd enable swmatrix_Tgate
xTgates[2] Q[2] BUS[2] pin VDDd VSSd enable swmatrix_Tgate
xTgates[3] Q[3] BUS[3] pin VDDd VSSd enable swmatrix_Tgate
xTgates[4] Q[4] BUS[4] pin VDDd VSSd enable swmatrix_Tgate
xTgates[5] Q[5] BUS[5] pin VDDd VSSd enable swmatrix_Tgate
xTgates[6] Q[6] BUS[6] pin VDDd VSSd enable swmatrix_Tgate
xTgates[7] Q[7] BUS[7] pin VDDd VSSd enable swmatrix_Tgate
xTgates[8] Q[8] BUS[8] pin VDDd VSSd enable swmatrix_Tgate
xTgates[9] Q[9] BUS[9] pin VDDd VSSd enable swmatrix_Tgate
xTgates[10] Q[10] BUS[10] pin VDDd VSSd enable swmatrix_Tgate
xTgates[11] Q[11] BUS[11] pin VDDd VSSd enable swmatrix_Tgate
xTgates[12] Q[12] BUS[12] pin VDDd VSSd enable swmatrix_Tgate
xTgates[13] Q[13] BUS[13] pin VDDd VSSd enable swmatrix_Tgate
xTgates[14] Q[14] BUS[14] pin VDDd VSSd enable swmatrix_Tgate
xTgates[15] Q[15] BUS[15] pin VDDd VSSd enable swmatrix_Tgate
xTgates[16] Q[16] BUS[16] pin VDDd VSSd enable swmatrix_Tgate
xTgates[17] Q[17] BUS[17] pin VDDd VSSd enable swmatrix_Tgate
xTgates[18] Q[18] BUS[18] pin VDDd VSSd enable swmatrix_Tgate
xTgates[19] Q[19] BUS[19] pin VDDd VSSd enable swmatrix_Tgate
xTgates[20] Q[20] BUS[20] pin VDDd VSSd enable swmatrix_Tgate
xTgates[21] Q[21] BUS[21] pin VDDd VSSd enable swmatrix_Tgate
xTgates[22] Q[22] BUS[22] pin VDDd VSSd enable swmatrix_Tgate
xTgates[23] Q[23] BUS[23] pin VDDd VSSd enable swmatrix_Tgate
xTgates[24] Q[24] BUS[24] pin VDDd VSSd enable swmatrix_Tgate
xTgates[25] D_out BUS[25] pin VDDd VSSd enable swmatrix_Tgate
.ends


* expanding   symbol:  switch_matrix_gf180mcu_9t5v0/ShiftReg_row_25/ShiftReg_row_25.sym # of pins=6
** sym_path: /foss/designs/libs/switch_matrix_gf180mcu_9t5v0/ShiftReg_row_25/ShiftReg_row_25.sym
** sch_path: /foss/designs/libs/switch_matrix_gf180mcu_9t5v0/ShiftReg_row_25/ShiftReg_row_25.sch
.subckt ShiftReg_row_25 Q[1] Q[2] Q[3] Q[4] Q[5] Q[6] Q[7] Q[8] Q[9] Q[10] Q[11] Q[12] Q[13] Q[14] Q[15] Q[16] Q[17] Q[18] Q[19]
+ Q[20] Q[21] Q[22] Q[23] Q[24] Q[25] D_in PHI_1 PHI_2 VDDd VSSd
*.PININFO PHI_1:I PHI_2:I D_in:I Q[1:25]:O VDDd:B VSSd:B
xFF[1] D_in Q[1] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[2] Q[1] Q[2] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[3] Q[2] Q[3] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[4] Q[3] Q[4] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[5] Q[4] Q[5] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[6] Q[5] Q[6] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[7] Q[6] Q[7] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[8] Q[7] Q[8] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[9] Q[8] Q[9] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[10] Q[9] Q[10] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[11] Q[10] Q[11] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[12] Q[11] Q[12] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[13] Q[12] Q[13] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[14] Q[13] Q[14] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[15] Q[14] Q[15] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[16] Q[15] Q[16] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[17] Q[16] Q[17] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[18] Q[17] Q[18] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[19] Q[18] Q[19] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[20] Q[19] Q[20] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[21] Q[20] Q[21] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[22] Q[21] Q[22] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[23] Q[22] Q[23] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[24] Q[23] Q[24] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
xFF[25] Q[24] Q[25] PHI_1 PHI_2 VDDd VSSd DFF_2phase_1
.ends


* expanding   symbol:  switch_matrix_gf180mcu_9t5v0/swmatrix_Tgate/swmatrix_Tgate.sym # of pins=6
** sym_path: /foss/designs/libs/switch_matrix_gf180mcu_9t5v0/swmatrix_Tgate/swmatrix_Tgate.sym
** sch_path: /foss/designs/libs/switch_matrix_gf180mcu_9t5v0/swmatrix_Tgate/swmatrix_Tgate.sch
.subckt swmatrix_Tgate control T2 T1 VDDd VSSd enable
*.PININFO T1:B T2:B VDDd:B VSSd:B control:I enable:I
XM1 T1 gated_control T2 VSSd nfet_03v3 L=0.28u W=mn_w nf=6 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM2 T1 gated_controlb T2 VDDd pfet_03v3 L=0.28u W=mp_w nf=6 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
**** begin user architecture code


.param mn_w=24u
.param mp_w=72u

**** end user architecture code
x1 gated_control gated_controlb VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
x2 control enable net1 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__nand2_1
x3 net1 gated_control VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
.ends


* expanding   symbol:  switch_matrix_gf180mcu_9t5v0/DFF_2phase_1/DFF_2phase_1.sym # of pins=6
** sym_path: /foss/designs/libs/switch_matrix_gf180mcu_9t5v0/DFF_2phase_1/DFF_2phase_1.sym
** sch_path: /foss/designs/libs/switch_matrix_gf180mcu_9t5v0/DFF_2phase_1/DFF_2phase_1.sch
.subckt DFF_2phase_1 D Q PHI_1 PHI_2 VDDd VSSd
*.PININFO D:I PHI_1:I PHI_2:I Q:O VDDd:B VSSd:B
xmain D PHI_1 out_m VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__latq_1
xsecondary out_m PHI_2 Q VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__latq_1
* noconn VSSd
* noconn VDDd
.ends

